US06124323
From a mixture of 4-benzylpiperidine (2.68 9, 15.1 mmol), 2-(4-benzyloxy-3-nitrophenoxy)ethyl bromide (2.65 g, 7.52 mmol) and KI (110 mg) in toluene (25 mL) was obtained 2.59 g (77%) of 4-benzyl-1-(2-(4-benzyloxy-3-nitrophenoxy)ethyl)piperidine as an orange-yellow oil. 1H NMR (CDCl3): 1.30-1.42 (m, 2H), 1.50-1.60 (m, 1H), 1.64-1.68 (m, 2H), 2.02-2.10 (m, 2H), 2.547 (d, 2H, J=7), 2.777 (t, 2H, T=6), 2.95-3.00 (m, 2H), 4.085 (t, 2H, J=6), 5.181 (s, 2H), 7.02-7.46 (m, 8H).

reactant | 4-benzylpiperidine | 15.1 mmol | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
reactant | 2-(4-benzyloxy-3-nitrophenoxy)ethyl bromide | 7.52 mmol, 2.65 g | C(C1=CC=CC=C1)OC1=C(C=C(OCCBr)C=C1)[N+](=O)[O-] | C15H14BrNO4
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | 4-benzyl-1-(2-(4-benzyloxy-3-nitrophenoxy)ethyl)piperidine | 2.59 g, 77% | C(C1=CC=CC=C1)C1CCN(CC1)CCOC1=CC(=C(C=C1)OCC1=CC=CC=C1)[N+](=O)[O-] | C27H30N2O4
